### PR TITLE
starting final push on enlarge_S

### LINKED ISSUE #1118: 1729: Enlarge S'
Prove [Proposition 18.14](https://teorth.github.io/equational_theories/blueprint/1729-chapter.html#enlarge-S).  

When done, mark the proof with a \leanok in the blueprint.

### PR DESCRIPTION
**Pull request by teorth**
null

Closes #1118

### CODE REVIEW

File: equational_theories/ManuallyProved/Equation1729/SmallMagma.lean [hunk 1]
```diff
@@ -914,5 +911,26 @@ lemma R'_R'_neq (a b : SM) (y:N) : R' a (R' b y) ≠ y := by
   all_goals simp [R', heq] at h
   linarith
 
+lemma basis_elements_parent_subset {x:N} : basis_elements (parent x) ⊆ basis_elements x := by
+  apply Finset.union_subset_union _ (fun ⦃a⦄ a ↦ a)
+  apply Finset.image_subset_image
+  rw [parent_toWord]
+  rcases x.toWord with ⟨ ⟩ | ⟨ a, l' ⟩
+  . simp only [List.tail_nil, List.toFinset_nil, subset_refl]
+  simp only [List.tail_cons, List.toFinset_cons, Finset.subset_insert]
```
Comment (pitmonticone) [inline equational_theories/ManuallyProved/Equation1729/SmallMagma.lean:920]: Here a golfed version: 

```suggestion
lemma basis_elements_parent_subset {x:N} : basis_elements (parent x) ⊆ basis_elements x := by
  refine Finset.union_subset_union (Finset.image_subset_image ?_) (fun _ a ↦ a)
  rw [parent_toWord]
  rcases x.toWord with ⟨ ⟩ | ⟨ a, l' ⟩ <;> simp
```
I have already tested it locally so you can to commit the change directly.

File: equational_theories/ManuallyProved/Equation1729/SmallMagma.lean [hunk 2]
```diff
@@ -97,12 +106,26 @@ lemma SM_obeys_1729 : Equation1729 SM := by
...
+  decide
+
+lemma E_ne_S (n:ℕ) (a:SM) : E n ≠ S a := by
   by_contra! this
   apply_fun (fun f ↦ f n) at this
-  by_cases h:m=n
-  all_goals simp [E,S, DirectSum.of_apply,h] at this
-  all_goals contrapose! this; decide
+  simp [E,SM_square_eq_double, DirectSum.of_apply] at this
+  exact one_odd (a n) this
```
Comment (pitmonticone) [inline equational_theories/ManuallyProved/Equation1729/SmallMagma.lean:117]: It can be simplified as follows:

```suggestion
  simp [E,SM_square_eq_double, DirectSum.of_apply] at this
  exact one_odd (a n) this
```

Tested locally so it's safe to commit directly.

File: equational_theories/ManuallyProved/Equation1729/SmallMagma.lean [hunk 3]
```diff
@@ -333,6 +356,11 @@ lemma parent_of_e_sq (a:SM) : parent ((e a)^2) = e a := by
   simp only [parent, e, FreeGroup.toWord_of_pow, List.reduceReplicate, List.tail_cons,
     FreeGroup.mk_of_single_true]
 
+lemma parent_of_div {a b:SM} (h:a ≠ b) : parent ((e a)⁻¹ * e b) = e b := by
+  simp only [parent, e, div_eq, List.singleton_append, FreeGroup.toWord_mk, FreeGroup.reduce.cons,
+    Bool.false_eq, Bool.not_eq_eq_eq_not, Bool.not_false, Bool.true_eq, Bool.not_true,
+    FreeGroup.reduce_nil, h, and_true, ↓reduceIte, List.tail_cons, FreeGroup.mk_of_single_true]
```
Comment (pitmonticone) [inline equational_theories/ManuallyProved/Equation1729/SmallMagma.lean:362]: It can be simplified as follows:

```suggestion
lemma parent_of_div {a b:SM} (h:a ≠ b) : parent ((e a)⁻¹ * e b) = e b := by
  simp [parent, e, div_eq, FreeGroup.reduce_nil, h]
```

Tested locally so it's safe to commit directly.

File: equational_theories/ManuallyProved/Equation1729/SmallMagma.lean [hunk 4]
```diff
@@ -822,6 +853,10 @@ lemma val_inv (a : SM) (x : N): val a x⁻¹ = -val a x := by
   simp only [val, ofAdd_zero, map_inv]
   rfl
 
+@[simp]
+lemma val_zpow (a : SM) (x : N) (n : ℤ) : val a (x^n) = n * val a x := by
+  simp only [val, ofAdd_zero, map_zpow, toAdd_zpow, smul_eq_mul]
```
Comment (pitmonticone) [inline equational_theories/ManuallyProved/Equation1729/SmallMagma.lean:858]:
```suggestion
lemma val_zpow (a : SM) (x : N) (n : ℤ) : val a (x^n) = n * val a x := by
  simp [val]
```

Comment (teorth) [reply equational_theories/ManuallyProved/Equation1729/SmallMagma.lean:860]: I thought best practice was to replace `simp` with `simp only` to keep the proof stable and also slightly improve compile time?

File: equational_theories/ManuallyProved/Equation1729/SmallMagma.lean (hunk 1 above)
Comment (teorth) [reply equational_theories/ManuallyProved/Equation1729/SmallMagma.lean:922]: Implemented, thanks!

**Comment by pitmonticone** [comment]
@teorth I can clean up before merging if it's ok for you.

**Review by pitmonticone — APPROVED** [review]
